US06204282B1
1-Methyl-2-(aminomethyl)benzimidazole dihydrochloride
Combine N-methyl-o-phenylenediamine (12.2 g, 100 mmol) and glycine (11.3 g, 150 mmol) in 6 N HCl (100 mL). Heat at reflux 90 hours, allow to cool, and concentrate in vacuo to 60 g. Add EtOH (50 mL) and chill at −15° C. Filter the solid and wash with cold 90% EtOH. Dissolve the blue solid in water (30 mL), add EtOH (100 mL) and treat with decolorizing charcoal. Wash the solid with 2:1 EtOH-water and concentrate filtrates in vacuo to 33 g. Add water (15 mL) and warm while adding EtOH (150 mL). Allow to cool, filter, and wash with 90% EtOH to obtain the product as blue flakes. Process the filtrate to obtain a second crop.

reactant | N-methyl-o-phenylenediamine | 100 mmol, 12.2 g | CNC1=C(C=CC=C1)N | C7H10N2
reactant | glycine | 150 mmol, 11.3 g | NCC(=O)O | C2H5NO2
reactant | HCl | 6 N, 100 mL | Cl | ClH
product | 1-Methyl-2-(aminomethyl)benzimidazole dihydrochloride | Cl.Cl.CN1C(=NC2=C1C=CC=C2)CN | InChI=1S/C9H11N3.2ClH/c1-12-8-5-3-2-4-7(8)11-9(12)6-10;;/h2-5H,6,10H2,1H3;2*1H
